US08207164B2
d) 5-(5-Bromo-2-fluoro-phenyl)-5-difluoromethyl-2,2-dimethyl-morpholin-3-one
To a solution of 5-(5-bromo-2-fluoro-phenyl)-5-difluoromethyl-2,2-dimethyl-4-(2-nitro-benzenesulfonyl)-morpholin-3-one (6.29 g, 11.71 mmol) and thioglycolic acid (1.83 g, 19.90 mmol) in 63 mL DMF was added potassium carbonate (6.47 g, 46.8 mmol). The reaction mixture was heated to 60° C. After 120 minutes, additional thioglycolic acid (324 mg, 3.51 mmol) was added. 30 minutes later on, the reaction mixture was cooled to room temperature and partitioned between EtOAc and water. The layers were separated, washed with saturated aqueous NaHCO3, brine and EtOAc. The combined organic layers were dried over MgSO4.H2O and evaporated. The crude product was crystallized from TBME/hexane to give 3.14 g of the title compound as white crystals.

reactant | 5-(5-bromo-2-fluoro-phenyl)-5-difluoromethyl-2,2-dimethyl-4-(2-nitro-benzenesulfonyl)-morpholin-3-one | 11.71 mmol, 6.29 g | BrC=1C=CC(=C(C1)C1(COC(C(N1S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O)(C)C)C(F)F)F | C19H16BrF3N2O6S
reactant | thioglycolic acid | 19.90 mmol, 1.83 g | C(CS)(=O)O | C2H4O2S
reactant | potassium carbonate | 46.8 mmol, 6.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | thioglycolic acid | 3.51 mmol, 324 mg | C(CS)(=O)O | C2H4O2S
solvent | DMF | 63 mL | CN(C)C=O | C3H7NO
product | 5-(5-Bromo-2-fluoro-phenyl)-5-difluoromethyl-2,2-dimethyl-morpholin-3-one | 3.14 g | BrC=1C=CC(=C(C1)C1(COC(C(N1)=O)(C)C)C(F)F)F | C13H13BrF3NO2
